US04175190
3.1 G. of dimethyl racemic-6-(4-hydroxy-1-piperidinyl)-2,4-pyrimidine-dicarbamate-3-oxide are suspended in 100 ml. of methylene chloride and 100 ml. of water. The suspension is adjusted with concentrated sodium hydroxide to pH 12.6 and stirred at this pH for 3.5 hours. The two phases are then separated and the aqueous phase is adjusted to pH 3.2 with concentrated hydrochloric acid solution. The separated white precipitate is filtered off, pre-dried and recrystallized from methylene chloride and methanol, there being obtained pure methyl racemic-5-(4-hydroxy-1-piperidinyl)-2-oxo-2H-[1,2,4]-oxadiazolo[2,3-a]pyrimidine-7-carbamate, having a melting point of 250°-260° C. (decomposition).

reactant | dimethyl racemic-6-(4-hydroxy-1-piperidinyl)-2,4-pyrimidine-dicarbamate-3-oxide | OC1CCN(CC1)C1=CC(=[N+](C(=N1)NC(=O)OC)[O-])NC(=O)OC | C13H19N5O6
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | methyl racemic-5-(4-hydroxy-1-piperidinyl)-2-oxo-2H-[1,2,4]-oxadiazolo[2,3-a]pyrimidine-7-carbamate | OC1CCN(CC1)C1=NC=2N(C(=C1)NC(=O)OC)OC(N2)=O | C12H15N5O5
